US07723369B2
5-{4-[2-(4′-Bromo-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (134 mg, 0.2 mmol) was treated as described in general procedure R using excess piperazin-2-one (200 mg, 2 mmol) to give 4-(4′-{4-(2,4-dichloro-phenyl)-1-[4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-phenyl]-1H-imidazol-2-ylmethyl}-biphenyl-4-yl)-piperazin-2-one.

reactant | 5-{4-[2-(4′-Bromo-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.2 mmol, 134 mg | BrC1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O | C30H21BrCl2N4O3S
reactant | piperazin-2-one | 2 mmol, 200 mg | N1C(CNCC1)=O | C4H8N2O
product | 4-(4′-{4-(2,4-dichloro-phenyl)-1-[4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-phenyl]-1H-imidazol-2-ylmethyl}-biphenyl-4-yl)-piperazin-2-one | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)N1S(NC(C1)=O)(=O)=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)N1CC(NCC1)=O | C34H28Cl2N6O4S
